US07538123B2
120 mg of 2-methoxy-1-(2-methoxyvinyl)naphthalene was dissolved in 4 ml of 2 N hydrochloric acid-tetrahydrofuran (1:1). The obtained mixture was then stirred at 70° C. for 2 hours. The reaction solution was cooled to a room temperature and then diluted with ethyl acetate. The resultant product was washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 115 mg of (2-methoxynaphthalen-1-yl)acetaldehyde. This compound was used in the following reaction without further purification.

reactant | 2-methoxy-1-(2-methoxyvinyl)naphthalene | 120 mg | COC1=C(C2=CC=CC=C2C=C1)C=COC | C14H14O2
solvent | hydrochloric acid tetrahydrofuran | 2 N, 4 ml | Cl.O1CCCC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-methoxynaphthalen-1-yl)acetaldehyde | 115 mg | COC1=C(C2=CC=CC=C2C=C1)CC=O | C13H12O2
